data/oMe_Silver.jsonl
{"reaction_id": "NR-135_1-C1CCCCC1_2-Cl_3-C#N_4-C","name": "Luche Reduction","level": "medium","reactants_smiles": ["C(C1CCCCC1)(Cl)=C(C#N)C(=O)(C)","[Na+].[BH4-]","Cl[Ce](Cl)Cl","CO"],"products_smiles": ["C(C1CCCCC1)(Cl)=C(C#N)C(O)(C)"],"conditions": "NaBH4, CeCl3, MeOH","mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "C(C1CCCCC1)(Cl)=C(C#N)C(=[O+][Ce-](Cl)(Cl)Cl)(C)","rationale": "CeCl3, a strong Lewis acid, coordinates to the carbonyl oxygen, withdrawing electron density and increasing the partial positive charge on the carbonyl carbon, making it more susceptible to nucleophilic attack."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C1CCCCC1)(Cl)=C(C#N)C(O[Ce-](Cl)(Cl)Cl)(C)","rationale": "NaBH4 delivers hydride to the activated carbonyl carbon; Ce coordination reduces conjugation with the alkene, favoring 1,2-addition over 1,4-addition under these mild conditions."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C1CCCCC1)(Cl)=C(C#N)C(O)(C)","rationale": "The alkoxide–cerium complex is protonated by methanol, a protic solvent, to yield the neutral alcohol and regenerate the Lewis acid catalyst."}],"description": "CeCl3 coordinates to the carbonyl oxygen, enhancing electrophilicity and directing NaBH4 reduction selectively to the carbonyl over the conjugated alkene. Hydride addition yields an alkoxide–cerium complex, which is then protonated in methanol to give the allylic alcohol."}
{"reaction_id": "NR-122_1-C(=O)OC_2-C#N_3-c1ccc(Cl)cc1_4-c1ccc(cc1)c2ccccc2","name": "Knoevenagel Condensation","level": "medium","reactants_smiles": ["C(=O)(c1ccc(Cl)cc1)c1ccc(cc1)c2ccccc2","C(C(=O)OC)C#N"],"products_smiles": ["C(=C(C(=O)OC)C#N)(c1ccc(Cl)cc1)c1ccc(cc1)c2ccccc2"],"conditions": "C1CCNCC1","mechanism": [{"step": 1,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "C(=[N+]1CCCCC1)(c1ccc(Cl)cc1)c1ccc(cc1)c2ccccc2","rationale": "Piperidine attacks the carbonyl carbon, forming an iminium ion; the nitrogen lone pair facilitates electrophilic activation by increasing carbonyl carbon's partial positive charge through resonance and inductive effects."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[CH-](C(=O)OC)C#N","rationale": "The basic nitrogen abstracts an acidic α-proton from C(=O)OC–C#N methylene, stabilized by resonance with adjacent electron-withdrawing groups, generating a nucleophilic carbanion."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(N1CCCCC1)(c1ccc(Cl)cc1)c1ccc(cc1)c2ccccc2)(C(=O)OC)C#N","rationale": "The resonance-stabilized carbanion attacks the iminium carbon, favored by strong electrophilicity from the positively charged nitrogen and minimal steric hindrance at the reaction site."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[C-](C(N1CCCCC1)(c1ccc(Cl)cc1)c1ccc(cc1)c2ccccc2)(C(=O)OC)C#N","rationale": "Proton transfer regenerates the neutral amine and positions the intermediate for elimination, driven by the stability of the conjugated alkene product."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=C(C(=O)OC)C#N)(c1ccc(Cl)cc1)c1ccc(cc1)c2ccccc2","rationale": "Elimination of piperidine occurs as the leaving group is stabilized by its basicity and the formation of a conjugated C=C bond provides thermodynamic driving force."}],"description": "In the piperidine-catalyzed Knoevenagel condensation, the amine activates the carbonyl via iminium formation, while also deprotonating the active methylene compound to generate a nucleophile. Nucleophilic addition to the activated carbonyl is followed by proton transfers and elimination to yield the conjugated alkene."}
